US05506256
B) (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine
By the same procedure as in Example 21-B), (2S)-1-[N-(t-butoxycarbonyl)-L-prolyl]-2-[1-hydroxy-2-(4-methoxyphenoxy) ethyl]pyrrolidine (722 mg) was treated with 4N hydrochloric acid/1,4-dioxane, followed by reaction with benzylisocyanate (0.21 ml) to give 596 mg of the title compound as crystals. C) (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-(4-methoxyphenoxyacetyl)pyrrolidine

reactant | (2S)-1-[N-(t-butoxycarbonyl)-L-prolyl]-2-[1-hydroxy-2-(4-methoxyphenoxy) ethyl]pyrrolidine | 722 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1 | C23H34N2O6
reactant | hydrochloric acid 1,4-dioxane | 4N | Cl.O1CCOCC1
reactant | benzylisocyanate | 0.21 ml | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | (2S)-1-(N-Benzylaminocarbonyl-L-prolyl)-2-[1-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 596 mg | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1 | C26H33N3O5
